* C:\users\Brandon\Documents\ECE_213\lab4.asc
Vs Vs 0 SINE(0 4.25 500)
C1 V3 Vs 470n
R1 V3 V2 3.9k
R2 V3 0 470
C2 V2 0 33n
L1 V3 0 150m
.tran 0 .2 .1 .001 startup
.meas V2 MAX V(V2) FROM .01 TO .1
.meas Vs MAX V(Vs) FROM .01 TO .1
.meas V1 MAX V(V1) FROM .01 TO .1
.backanno
.end
